US05981557
2-[N-(2,4,5-Trimethoxybenzoyl)amino]-4-[(2-dimethylaminoethoxy)carbonyl]-1,3-thiazole
In 10 ml of N,N-dimethylformamide, 278 mg of sodium hydride was suspended. To the resulting suspension, 620 mg of N,N-dimethylaminoethanol was added dropwise, followed by stirring at room temperature for one hour. In another 10 ml portion of N,N-dimethylformamide, 1.57 g of 2-[N-(2,4,5-trimethoxybenzoyl)amino]-4-(hydroxycarbonyl)-1,3-thiazole was suspended. To the resulting suspension, 827 mg of carbonyl diimiazole was added, followed by stirring at room temperature for one hour. Two reaction mixtures so obtained were combined and were stirred at 100° C. for one hour. The reaction mixture was poured into an ice water and the crystals so precipitated were collected by filtration. The crystals so obtained were recrystallized from isopropyl alcohol, whereby 1.4 g of the title compound was obtained. Yield: 74%.

reactant | sodium hydride | 278 mg | [H-].[Na+]
reactant | N,N-dimethylaminoethanol | 620 mg | CN(C)CCO | C4H11NO
reactant | 2-[N-(2,4,5-trimethoxybenzoyl)amino]-4-(hydroxycarbonyl)-1,3-thiazole | 1.57 g | COC1=C(C(=O)NC=2SC=C(N2)C(=O)O)C=C(C(=C1)OC)OC | C14H14N2O6S
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 2-[N-(2,4,5-Trimethoxybenzoyl)amino]-4-[(2-dimethylaminoethoxy)carbonyl]-1,3-thiazole | 1.4 g, Yield: 74% | COC1=C(C(=O)NC=2SC=C(N2)C(=O)OCCN(C)C)C=C(C(=C1)OC)OC | C18H23N3O6S
